US09353107B2
Step-ii: N-(5-(3-(1-phenethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(piperazin-1-yl)phenyl)methanesulfonamide hydrochloride
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 5-(4-(4-(tert-butoxycarbonyl)piperazin-1-yl)-3-(methylsulfonamido)phenyl)-3-(1-phenethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (21 mg, mmol) was deprotected in methanol/HCl in diethyl ether (2/1 ml) to afford 11 mg (68% yield) of the titled compound. 1H NMR (CD3OD, 300 MHz): δ 8.859-8.853 (d, 1H), 8.736-8.73 (d, 1H), 8.37 (s, 1H), 8.33 (s, 1H), 8.00 (s, 1H), 7.867-7.861 (d, 1H), 7.66-7.63 (dd, 1H), 7.53-7.50 (d, 1H), 7.27-7.12 (m, 5H), 4.63-4.61 (t, 2H), 3.51-3.47 (t, 4H), 3.50-3.24 (m, 9H). MS: m/z=542.3 (M+1), HPLC: 98.49% in method B.

reactant | tert-butyl 5-(4-(4-(tert-butoxycarbonyl)piperazin-1-yl)-3-(methylsulfonamido)phenyl)-3-(1-phenethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 21 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)C=1C=C2C(=NC1)N(C=C2C=2C=NN(C2)CCC2=CC=CC=C2)C(=O)OC(C)(C)C)NS(=O)(=O)C | C39H47N7O6S
reactant | methanol HCl | CO.Cl
solvent | diethyl ether | 1 ml | C(C)OCC | C4H10O
product | N-(5-(3-(1-phenethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(piperazin-1-yl)phenyl)methanesulfonamide hydrochloride | 11 mg, 68% yield | Cl.C(CC1=CC=CC=C1)N1N=CC(=C1)C1=CNC2=NC=C(C=C21)C=2C=CC(=C(C2)NS(=O)(=O)C)N2CCNCC2 | InChI=1S/C29H31N7O2S.ClH/c1-39(37,38)34-27-16-22(7-8-28(27)35-13-10-30-11-14-35)23-15-25-26(19-32-29(25)31-17-23)24-18-33-36(20-24)12-9-21-5-3-2-4-6-21;/h2-8,15-20,30,34H,9-14H2,1H3,(H,31,32);1H
